US04394384
To a suspension of 7-aminocephalosporanic acid (9.30 g) and disodium 2-sulfido-4-pyridinecarboxylate (6.80 g) in water (160 ml) was dropwise added sodium bicarbonate (5.73 g) at room temperature. To the resulting mixture was added a saturated aqueous solution of sodium bicarbonate so that the pH was adjusted to 6.8. The resulting mixture was warmed to 65° C. and stirred for 1.5 hours during which period the temperature was allowed to rise from 65° to 75° C. The reaction mixture was cooled and then adjusted to pH 3.6 with 10% hydrochloric acid. The precipitates were collected by filtration, washed successively with water (x2), acetone (x2) and diethyl ether and then dried to give 7-amino-3-(4-carboxypyridin-2-yl)thiomethyl-3-cephem-4-carboxylic acid (6.61 g).

reactant | 7-aminocephalosporanic acid | 9.30 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | disodium 2-sulfido-4-pyridinecarboxylate | 6.80 g | [S-]C1=NC=CC(=C1)C(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 5.73 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 160 ml | O | H2O
product | 7-amino-3-(4-carboxypyridin-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 6.61 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NC=CC(=C2)C(=O)O)C(=O)O)C1=O | C14H13N3O5S2
